US06903118B1
b) 4-(4-biphenyl-2-yl-piperazin-1-yl)-butylamine
Batch size: 20.8 g (47.3 mol) 2-[4-(4-biphenyl-2-yl-piper-azin-1-yl)-butyl]-isoindolin-1,3-dione and 4.6 ml (94.6 mmol) hydrazine-hydrate in 185 ml ethanol.

reactant | 2-[4-(4-biphenyl-2-yl-piper-azin-1-yl)-butyl]-isoindolin-1,3-dione | 47.3 mol, 20.8 g | C1(=C(C=CC=C1)N1CCN(CC1)CCCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C28H29N3O2
reactant | hydrazine-hydrate | 94.6 mmol, 4.6 ml | O.NN
solvent | ethanol | 185 ml | C(C)O | C2H6O
product | 4-(4-biphenyl-2-yl-piperazin-1-yl)-butylamine | C1(=C(C=CC=C1)N1CCN(CC1)CCCCN)C1=CC=CC=C1 | C20H27N3
